US06329381B1
6-Amino-9-benzyl-2-propoxypurine
6-Amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) and sodium propylate (316 mg, 3.85 mmol) were dissolved in 1-propanol (20 ml) and then the solution was refluxed on heating under stirring for 3 hours. The reaction mixture was evaporated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and evaporated in vacuo to dryness. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (162 mg, yield 74%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | sodium | 3.85 mmol, 316 mg | [Na] | Na
reactant | 1-propanol | 20 ml | C(CC)O | C3H8O
product | 6-Amino-9-benzyl-2-propoxypurine | 162 mg, yield 74% | NC1=C2N=CN(C2=NC(=N1)OCCC)CC1=CC=CC=C1 | C15H17N5O
